US06274120B1
i) 2.2-Dihexadecylmalonic acid dihexadecyl ester
Sodium hydride (72 mg, 3 mmol) was added in portions to a cooled (ice/water) solution of 2-hexadecylmalonic acid dihexadecyl ester (2.33 g, 3 mmol) in tetrahydrofuran (45 ml) under an argon atmosphere and the resulting mixture was stirred at ambient temperature for 30 minutes. The solvent was evaporated and the solid residue was redissolved in N,N-dimethylformamide (45 ml). A solution of 1-iodohexadecane (1.06 g, 3 mmol) in N,N-dimethylformamide (20 ml) was added and stirring was continued at room temperature for 24 hours. Water (75 ml) was added to the reaction mixture after the pH had been adjusted to about 5 with 2N HCl. The mixture was extracted with chloroform (3×75 ml) and the chloroform phase was washed with water (3×75 ml). The organic phase was dried with magnesium sulphate and the solvent was removed at reduced pressure. The residue was purified by flash chromatography (silicagel 60, chloroform/hexane). Yield: 66%. 1H-NMR (300 MHz, CDCl3): δ 0.88(t,12H), 1.26(m,108H), 1.60(m,4H), 1.85(m,4H), 4.09(t,4H). FAB-MS: 1024 (M+Na).

reactant | Sodium hydride | 3 mmol, 72 mg | [H-].[Na+]
reactant | 2-hexadecylmalonic acid dihexadecyl ester | 3 mmol, 2.33 g | C(CCCCCCCCCCCCCCC)OC(C(C(=O)OCCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCC)=O | C51H100O4
reactant | 1-iodohexadecane | 3 mmol, 1.06 g | ICCCCCCCCCCCCCCCC | C16H33I
reactant | HCl | 2N | Cl | ClH
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | Water | 75 ml | O | H2O
product | 2.2-Dihexadecylmalonic acid dihexadecyl ester | Yield: 66% | C(CCCCCCCCCCCCCCC)OC(C(C(=O)OCCCCCCCCCCCCCCCC)(CCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCC)=O | C67H132O4
